US06878714B2
5-Chloro-1-methyl-1H-pyrazole-4-carboxylic acid (4-tert-butyl-phenyl)-amide (530 mg, 1.80 mmol) and powered 40% KF/Alumina (1.04 g, effective 6.0 mmol of KF) were combined and treated with IpOH (6 mL). 4-(Aminomethyl)pyridine (3.9 g, 36 mmol) was added. The headspace of the reaction vessel was purged with argon and the reaction vessel was sealed. The reaction was then heated to 160° C. overnight with stirring. The reaction was cooled to RT and filtered under vacuum, washing the collected solid with fresh IpOH. The filtrate was concentrated under reduced pressure and the recovered material was eluted through a 17×2.5 cm column of silica gel with a 14:7:7:1 and 7:7:7:1 Hexane:MtBE:CH2Cl2:MeOH step gradient giving 1-methyl-5-[(pyridin-4-ylmethyl)-amino]-1H-pyrazole-4-carboxylic acid (4-tert-butyl-phenyl)-amide as a white foamy solid. MS: 364 (M+1). Calc'd. for C21H25N5 O—363.46.

reactant | 5-Chloro-1-methyl-1H-pyrazole-4-carboxylic acid (4-tert-butyl-phenyl)-amide | 1.80 mmol, 530 mg | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)C=1C=NN(C1Cl)C | C15H18ClN3O
reactant | 4-(Aminomethyl)pyridine | 36 mmol, 3.9 g | NCC1=CC=NC=C1 | C6H8N2
product | 1-methyl-5-[(pyridin-4-ylmethyl)-amino]-1H-pyrazole-4-carboxylic acid (4-tert-butyl-phenyl)-amide | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)C=1C=NN(C1NCC1=CC=NC=C1)C | C21H25N5O
